US05026856
7-(5-chloro-2-isoindolinyl)-1-cyclopropyl-5amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
268 mg of 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 154 mg of 5- chloroisoindoline, 274 mg of DBU, and 2 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 270 mg of the target compound.

reactant | 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 268 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C13H9F3N2O3
reactant | 5- chloroisoindoline | 154 mg | ClC=1C=C2CNCC2=CC1 | C8H8ClN
reactant | DBU | 274 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-(5-chloro-2-isoindolinyl)-1-cyclopropyl-5amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 270 mg | ClC=1C=C2CN(CC2=CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N)F | C21H16ClF2N3O3
